US06608203B2
2-Benzenesulfonyl-4-(4-hydroxy-phenyl)-1,2,3,4-tetrahydroisoquinolin-7-ol
A solution of 7-methoxy-4-(4-methoxy-phenyl)-1,2,3,4-tetrahydroisoquinoline (0.103 g, 0.382 mmol, 1.0 eq., see Preparation 64) and triethylamine (0.107 ml, 0.764 mmol, 2.0 eq.) in CH2Cl2 (2 ml) was added to a vial containing benzenesulfonyl chloride (0.101 g, 0.573 mmol, 1.5 eq.). The reaction mixture was stirred overnight at RT. To this mixture was added BBr3 as a 1.0M solution in CH2Cl2 (1.15 ml, 1.15 mmol, 3.0 eq.). The reaction mixture was again stirred overnight at RT, then cooled to −78° C. and quenched with MeOH (1.5 ml). The reaction mixture was evaporated under a stream of nitrogen and purified by reverse phase HPLC (gradient elution 98:2 H2O:0.1% TFA, then 2:98 MeCN:H2O). The exact yield was not determined.

reactant | 7-methoxy-4-(4-methoxy-phenyl)-1,2,3,4-tetrahydroisoquinoline | 0.382 mmol, 0.103 g, 1.0 eq. | COC1=CC=C2C(CNCC2=C1)C1=CC=C(C=C1)OC | C17H19NO2
reactant | triethylamine | 0.764 mmol, 0.107 ml, 2.0 eq. | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 0.573 mmol, 0.101 g, 1.5 eq. | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.15 mmol, 1.15 ml, 3.0 eq. | C(Cl)Cl | CH2Cl2
product | 2-Benzenesulfonyl-4-(4-hydroxy-phenyl)-1,2,3,4-tetrahydroisoquinolin-7-ol | C1(=CC=CC=C1)S(=O)(=O)N1CC2=CC(=CC=C2C(C1)C1=CC=C(C=C1)O)O | C21H19NO4S
